US04329367
Reacting the (3-methoxy-4-hydroxyphenyl)-acetone with the 3,3-diphenylpropylamine, reducing the resulting Schiff's base as shown above and reacting the resulting saturated compound with 3-trifluoromethylbenzyl chloride, the 1-[3-methoxy-4-(3-trifluoromethylbenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane hydrochloride is obtained, melting at 142° to 146° after recrystallization from isopropanol.

reactant | (3-methoxy-4-hydroxyphenyl)-acetone | COC=1C=C(C=CC1O)CC(C)=O | C10H12O3
reactant | 3,3-diphenylpropylamine | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | 3-trifluoromethylbenzyl chloride | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
product | 1-[3-methoxy-4-(3-trifluoromethylbenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane hydrochloride | Cl.COC=1C=C(C=CC1OCC1=CC(=CC=C1)C(F)(F)F)CC(C)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H34F3NO2.ClH/c1-24(37-19-18-30(27-11-5-3-6-12-27)28-13-7-4-8-14-28)20-25-16-17-31(32(22-25)38-2)39-23-26-10-9-15-29(21-26)33(34,35)36;/h3-17,21-22,24,30,37H,18-20,23H2,1-2H3;1H
